US04476056
(2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-ol (0.6 mmol) could be dissolved in 20 ml. of methylene chloride and added to a suspension of 1.1 g. of activated manganese dioxide in 40 ml. of methylene chloride. After filtration, the filtrate is concentrated to afford (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-al which is purified by crystallization or chromatography in a conventional manner.

reactant | (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-ol | 0.6 mmol | C/C(/C=C/O)=C\C=C\C(=C\CC1=C(C(=C(C=C1C)OC(F)(F)F)C)C)\C | C21H25F3O2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-al | C\C(=C/C=O)\C=C\C=C(\C=C\C1=C(C(=C(C=C1C)OC(F)(F)F)C)C)/C | C21H23F3O2
